US08975254B2
(S)-2-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-oxazole-4-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (521 mg, 2.00 mmol) and 2-acetyloxazole-4-carboxylic acid (372 mg, 2.40 mmol). The product was purified by Flash-chromatography. Yield 36.0%. 1H-NMR (400 MHz; CDCl3): δ 1.62 (d, 3H), 2.61 (s, 3H), 3.75-3.98 (m, 2H), 4.59-4.71 (m, 1H), 6.62 (d, 1H), 7.45-7.53 (m, 2H), 7.71 (d, 1H), 7.86 (dd, 1H), 7.98 (d, 1H), 8.32 (s, 1H).

reactant | (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 2.00 mmol, 521 mg | NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C13H13ClN4
reactant | 2-acetyloxazole-4-carboxylic acid | 2.40 mmol, 372 mg | C(C)(=O)C=1OC=C(N1)C(=O)O | C6H5NO4
product | (S)-2-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-oxazole-4-carboxamide | Yield 36.0% | C(C)(=O)C=1OC=C(N1)C(=O)NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl | C19H16ClN5O3
